US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine
(S)-tert-butyl 2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine-4-carboxylate (21.9 g, 54.69 mmol) was dissolved in CH2Cl2 (300 ml), and TFA (5.3 g, 82.04 mmol) was added, followed by stirring at room temperature for 2 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the next reaction was advanced.

reactant | (S)-tert-butyl 2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine-4-carboxylate | 54.69 mmol, 21.9 g | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C(=O)OC(C)(C)C | C18H24N8O3
reactant | TFA | 82.04 mmol, 5.3 g | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholine | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CNCCO2 | C13H16N8O
